US08865911B2
3-Bromo-5-(but-1-ynyl)-pyridine
But-1-yne (g) was during 5 min gently bubbled through anhydrous acetonitrile cooled in an ice-water bath. The resulting solution contained about 170 mg but-1-yne per mL. The solution of but-1-yne (4.57 mL, 14.36 mmol) and diisopropylamine (3.72 mL, 26.11 mmol) were added sequentially to a mixture of 3,5-dibromopyridine (3.09 g, 13.06 mmol), bis(triphenylphosphine)-palladium(IT) chloride (0.458 g, 0.65 mmol) and CuT (0.249 g, 1.31 mmol) in acetonitrile (15 mL) under an argon atmosphere. The resulting mixture was stirred at r.t. overnight, diluted with EtOAc and passed through a short plug of silica. The solvents were evaporated and the residue was purified by flash chromatography on silica (gradient elution 0-20% EtOAc in heptane) to give 2.40 g of the title compound (87% yield): 1H NMR (500 MHz, DMSO-d6) δ ppm 1.17 (t, 4 H), 2.47 (q, 3 H), 8.11 (t, 1 H), 8.57 (d, 1 H), 8.65 (d, 1 H); MS (ES+) m/z 210 [M+H]F.

reactant | But-1-yne | C#CCC | C4H6
reactant | but-1-yne | 14.36 mmol, 4.57 mL | C#CCC | C4H6
reactant | diisopropylamine | 26.11 mmol, 3.72 mL | C(C)(C)NC(C)C | C6H15N
reactant | 3,5-dibromopyridine | 13.06 mmol, 3.09 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Bromo-5-(but-1-ynyl)-pyridine | 2.40 g, 87% yield | BrC=1C=NC=C(C1)C#CCC | C9H8BrN
